US07514419B2
To a stirred solution of bis(4-methoxyphenyl)iodonium tetrafluoroborate (3.14 g, 6.12 mmol, Yokoyama et al. J. Med. Chem. 38:695 (1995)) and copper powder (0.52 g, 8.12 mmol) in CH2Cl2 (12.0 mL) at 0° C. was added a solution of 2,6-dibromo-4-nitrophenol (1.20 g, 4.04 mmol) and Et3N (0.62 mL, 4.48 mmol) in CH2Cl2 (8.0 mL). The reaction was wrapped in aluminum foil (darkness), stirred at room temperature for 216 h and filtered through a Celite plug. The filtrate was concentrated and purified by column chromatography on silica gel, eluting with acetone-hexanes (3:97) to afford 3,5-dibromo-4-(3′-isopropyl-4′-methoxyphenoxy)nitrobenzene as an orange solid (1.95 g, 100%): 1H NMR (300 MHz, DMSO-d6): δ 8.60 (s, 2H), 6.82 (m, 2H), 6.44 (m, 1H), 3.73 (s, 3H), 3.12 (m, 1H), 1.13 (d, J=6.0 Hz, 6H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=ethyl acetate-hexanes (3:47); Rf=0.45.

reactant | bis(4-methoxyphenyl)iodonium tetrafluoroborate | 6.12 mmol, 3.14 g | F[B-](F)(F)F.COC1=CC=C(C=C1)[I+]C1=CC=C(C=C1)OC
reactant | 2,6-dibromo-4-nitrophenol | 4.04 mmol, 1.20 g | BrC1=C(C(=CC(=C1)[N+](=O)[O-])Br)O | C6H3Br2NO3
reactant | Et3N | 4.48 mmol, 0.62 mL | CCN(CC)CC | C6H15N
reactant | CH2Cl2 | 12.0 mL | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 8.0 mL | C(Cl)Cl | CH2Cl2
solvent | aluminum | [Al] | Al
catalyst | copper | 8.12 mmol, 0.52 g | [Cu] | Cu
product | 3,5-dibromo-4-(3′-isopropyl-4′-methoxyphenoxy)nitrobenzene | 1.95 g, 100% | BrC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Br)[N+](=O)[O-] | C16H15Br2NO4
